US08212041B2
6-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinazolin-4(3H)-one
A mixture of 2-(4-oxo-3,4-dihydroquinazolin-6-yl)acetic acid (0.10 g, 0.5 mmol), 1-(6-phenylpyridazin-3-yl)hydrazine (0.1 g, 0.6 mmol) and p-toluenesulfonic acid monohydrate (0.09 g, 0.5 mmol) in 3 mL of dioxane was heated with microwave at 150° C. for 1 hour in a microwave tube. The mixture was diluted with 70 mL of EtOAc and 40 mL of satd. NaHCO3 solution. The organic phase was separated and was washed with 40 mL of brine, dried over Na2SO4 and concentrated in vacuo. The residue was purified by a silica gel column chromatography (EtOAc to 15% MeOH/EtOAc) to give light yellow solid as desired product 6-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinazolin-4(3H)-one. MS (ESI, pos. ion) m/z: 355.1 (M+1).

reactant | 2-(4-oxo-3,4-dihydroquinazolin-6-yl)acetic acid | 0.5 mmol, 0.10 g | O=C1NC=NC2=CC=C(C=C12)CC(=O)O | C10H8N2O3
reactant | 1-(6-phenylpyridazin-3-yl)hydrazine | 0.6 mmol, 0.1 g | C1(=CC=CC=C1)C1=CC=C(N=N1)NN | C10H10N4
reactant | p-toluenesulfonic acid monohydrate | 0.5 mmol, 0.09 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | 70 mL | CCOC(=O)C | C4H8O2
product | 6-((6-phenyl-[1,2,4]triazolo[4,3-b]pyridazin-3-yl)methyl)quinazolin-4(3H)-one | C1(=CC=CC=C1)C=1C=CC=2N(N1)C(=NN2)CC=2C=C1C(NC=NC1=CC2)=O | C20H14N6O
